datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][C:8](=[C:9]([H:11])[H:12])[H:10],25.104
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][C:8]([H:9])([H:10])[H:11],25.104
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32],38.451
[C:0](=[C:1]1[C:2]([H:12])([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:18])[H:19])([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:18])[H:19])([H:10])[H:11].[H:12],324.74116
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10][O:11][H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:10][O:11][H:12],85.60464
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:23])([H:24])[H:25])[C:17](=[C:18]([H:27])[H:28])[H:26])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])([C:15]([C:16]([H:23])([H:24])[H:25])[C:17](=[C:18]([H:27])[H:28])[H:26])[H:22])[H:5],25.5642
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:30],9.3094
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[S:4]([H:10])[H:11],10.46
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]1([C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:22])([H:10])([H:11])[H:12],35.8569
[C:0](=[C:1]=[C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])([H:5])[H:6],31.38
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[O:3][H:10])([H:4])([H:5])[H:6].[O:11][O:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[H:10][O:11][O:12],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([C:16]([H:20])([H:21])[H:22])[C:17]#[C:18][H:23])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:19])([C:16]([H:20])([H:21])[H:22])[C:17]#[C:18][H:23],40.1664
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13],5.8576
[C:0]([C:1]([C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]1([H:5])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:8])[H:9])([H:6])[H:7],151.879
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[S:15]([C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])[H:24])[H:23]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:16]([S:15][H:23])([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])[H:24],58.576
[C:0]([C:1](=[O:2])[O:3][H:7])([H:4])([H:5])[H:6].[S:8]([H:9])[H:10]>>[C:0]([C:1]([O:2][H:9])([O:3][H:7])[S:8][H:10])([H:4])([H:5])[H:6],162.716
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:7])[H:6],45.3127
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[H:12]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[H:12])[H:7])[H:6],4.97896
